US07550598B2
(Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide
(Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one (0.045 g, 0.013 mmol) was dissolved in ethanol (1.5 mL) and 4-acetamidothiophenol (0.023 g, 0.013 mmol) was added. The reaction mixture was heated to 180° C. using a microwave reactor for 5-10 minutes. The mixture was then concentrated and the resulting solid filtered and washed with ether. 1H NMR (400 MHz, DMSO-d6) δ ppm 0.70 (t, J=7.33 Hz, 3H) 1.32 (qd, J=7.45, 7.20 Hz, 2H) 2.11 (s, 3H) 2.25 (t, J=7.07 Hz, 2H) 6.76 (s, 1H) 7.63-7.71 (m, 3H) 7.89 (t, J=8.84 Hz, 3H) 7.93-7.99 (m, 1H) 8.17 (d, J=8.34 Hz, 1H) 10.36 (s, 1H); ESI-MS: m/z calc'd for C23H22N4O2S 418.51. found 419.3 (M+H)+.

reactant | (Z)-4-(4-chloroquinolin-2(1H)-ylidene)-3-propyl-1H-pyrazol-5(4H)-one | 0.013 mmol, 0.045 g | ClC1=C/C(/NC2=CC=CC=C12)=C/1\C(=NNC1=O)CCC | C15H14ClN3O
reactant | 4-acetamidothiophenol | 0.013 mmol, 0.023 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | (Z)—N-(4-(2-(5-oxo-3-propyl-1H-pyrazol-4(5H)-ylidene)-1,2-dihydroquinolin-4-ylthio)phenyl)acetamide | O=C1\C(\C(=NN1)CCC)=C\1/NC2=CC=CC=C2C(=C1)SC1=CC=C(C=C1)NC(C)=O | C23H22N4O2S
